US08420655B2
To a round bottom flask is added 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-N-[1-dimethylamino-eth-(E)-ylidene]-benzamide (237 mg, 0.537 mmol) in glacial acetic acid (3 mL), followed by the addition of hydrazine (35% wt solution in water) (2 mL). The reaction mixture is stirred at room temperature for 2 hours. The reaction mixture is diluted with EtOAc, is washed with sat. NaHCO3, brine, dried under anhy. Na2SO4, filtered and concentrated. The residue is loaded to a silica gel column. The column is eluted with 0-3% 2M NH3 in MeOH/CH2Cl2. The product fractions are collected and concentrated to afford 5-bromo-1-tert-butyl-2-[2-(5-methyl-1H-1,2,4-triazol-3-yl)-phenyl]-1H-benzimidazole (78 mg, 35%) as a light brown solid. LCMS (ESMS): m/z 410.68, 412.71 (M++1)

reactant | 2-(5-bromo-1-tert-butyl-1H-benzimidazol-2-yl)-N-[1-dimethylamino-eth-(E)-ylidene]-benzamide | 0.537 mmol, 237 mg | BrC1=CC2=C(N(C(=N2)C2=C(C(=O)/N=C(\C)/N(C)C)C=CC=C2)C(C)(C)C)C=C1 | C22H25BrN4O
reactant | hydrazine | 2 mL | NN | H4N2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-1-tert-butyl-2-[2-(5-methyl-1H-1,2,4-triazol-3-yl)-phenyl]-1H-benzimidazole | 78 mg, 35% | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NNC(=N2)C)C(C)(C)C)C=C1 | C20H20BrN5
